US09145437B2
of [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-benzyloxyphenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate
Cool a mixture of [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-benzyloxyphenyl)-hydroxy-methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate (1.52 moles; 1.55 kg) in acetonitrile (6.19 L) and dichloromethane (6.19 L) in an brine/ice bath until the internal temperature is −5° C., then add triethylsilane (3.79 moles; 607 mL) over 2 minutes. Add boron trifluoride etherate (3.79 moles; 479 mL) dropwise maintaining the internal temperature below +5° C. Stir the mixture in the ice bath for 30 mins. Carefully add a mixture of NaHCO3 (saturated aqueous solution; 5 L) and water (4 L). Separate the organic phase and wash with water then brine then dry over MgSO4, filter, and concentrate under reduced pressure to afford a mixture of the title compound and compounds with one or more of the acetyl groups missing. Dissolve the residue in dichloromethane (1.86 L) and add acetic acid anhydride (7.58 moles; 716 mL) and N,N-dimethyl-4-pyridinamine, (75.78 mmoles; 9.26 g). Warm the mixture to 40° C. and gently agitate to aid dissolution then stir the mixture for 1 hour at room temperature. Concentrate the mixture under reduced pressure and slurry the residue in MTBE (6 L) overnight. Collect the solid by filtration and dry in an oven at 60° C. under reduced pressure to afford the title compound (692.8 g; 70% yield) mass spectrum (m/z): 658.3 (M+1) and 680.2 (M+23).

reactant | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-benzyloxyphenyl)-hydroxy-methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | 1.52 moles, 1.55 kg | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C37H39NO11
reactant | triethylsilane | 3.79 moles, 607 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 3.79 moles, 479 mL | B(F)(F)F.CCOCC
reactant | NaHCO3 | 5 L | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 6.19 L | C(C)#N | C2H3N
solvent | dichloromethane | 6.19 L | ClCCl | CH2Cl2
solvent | water | 4 L | O | H2O
product | [(2R,3R,4S,5R,6R)-3,4,5-triacetoxy-6-[3-[(4-benzyloxyphenyl)methyl]-4-methyl-indol-1-yl]tetrahydropyran-2-yl]methyl acetate | C(C)(=O)OC[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)OC(C)=O)N1C=C(C2=C(C=CC=C12)C)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C37H39NO10
